US08022062B2
N-(tert-Butoxycarbonyl)-4-bromo-benzylamine:
Add di-tert-butyl-dicarbonate (1.173 g, 5.375 mmol) and triethylamine (1.087 g, 1.0 mL, 10.75 mmol) to a stirred solution of 4-bromobenzylamine (1.0 g, 5.375 mmol) in anhydrous DCM (15 mL). Stir overnight at ambient temperature, dilute with DCM and wash with water. Separate the organic phase, dry over Na2SO4, filter and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0, 19:1 and 9:1) to obtain the desired intermediate as a solid (1.24 g, 81%).

reactant | di-tert-butyl-dicarbonate | 5.375 mmol, 1.173 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 10.75 mmol, 1.0 mL, 1.087 g | C(C)N(CC)CC | C6H15N
reactant | 4-bromobenzylamine | 5.375 mmol, 1.0 g | BrC1=CC=C(CN)C=C1 | C7H8BrN
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | N-(tert-Butoxycarbonyl)-4-bromo-benzylamine | 1.24 g, 81% | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)Br | C12H16BrNO2
